US06867221B2
Synthesis of 1-(tert-butoxycarbonyl)-4-[N-[4-(trifluoromethoxy)phenyl]-N-[3-(3,4,5-trimethoxyphen yl)benzyl]amino)piperidine
1-(tert-Butoxycarbonyl)-4-[[4-(trifluoromethoxy)phenyl]amino]piperidine (721 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (586 mg) was treated in the same manner as described in Example 9 to give light yellow amorphous of the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-[[4-(trifluoromethoxy)phenyl]amino]piperidine | 721 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OC(F)(F)F | C17H23F3N2O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 586 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 1-(tert-butoxycarbonyl)-4-[N-[4-(trifluoromethoxy)phenyl]-N-[3-(3,4,5-trimethoxyphen yl)benzyl]amino)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=C(C=C1)OC(F)(F)F | C33H39F3N2O6
